US05561119
According to scheme XIV, the coupling of penta-O-acetyl-D-galactopyranose (36 g, 92 mmoles) with p-cresol (30 g, 280 mmoles) is carried out by fusion in the presence of anhydrous ZnCl2 (1.8 g) at 160° C. for 30 minutes, according Helferich technique. After cooling, a chromatography on a column of 60H silica (solvent:hexane-ethyl acetate: 90/10-v/v) is directly performed on the mixture and gives 15 g, yield=40% of 4-methylphenyl 2,3,4,6-tetra-O-acetyl-α-D-galactopyranoside, which crystallises in ethanol. Its analytical characteristics are identical as the one described before.

reactant | penta-O-acetyl-D-galactopyranose | 92 mmoles, 36 g | C(C)(=O)OC1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](O1)COC(C)=O | C16H22O11
reactant | p-cresol | 280 mmoles, 30 g | C1=CC(=CC=C1O)C | C7H8O
catalyst | ZnCl2 | 1.8 g | [Cl-].[Cl-].[Zn+2]
product | 4-methylphenyl 2,3,4,6-tetra-O-acetyl-α-D-galactopyranoside | 15 g, yield=40% | C(C)(=O)O[C@H]1[C@@H](OC2=CC=C(C=C2)C)O[C@@H]([C@@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C21H26O10
